US05750574
3-tert-Butylamino-4-(4-trifluoromethyl-benzylamino)-cyclobut-3-ene-1,2-dione
The title compound was prepared according to the procedure for example 1step 2 except that 3-ethoxy-4-(tert-butylamino)-cyclobut-3-ene-1,2-dione was used in place of (R)-3-ethoxy-4-(1,2,2-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione and 4-trifluoromethyl-benzylamine was used in place of 4-fluoro-benzylamine. Yield: 63%; mp: 306-308° C.; 1H NMR (300 MHz, DMSO-d6): δ1.37 (m, 9H), 4.81-4.87 (m 2H), 7.57 (d, J=7.9 Hz, 2H), 7.76 (d, J=8.0 Hz, 2H), 7.81 (brm, 1H), one N--H proton not seen; IR (KBr, cm-1): 3291s, 3244s, 3061w, 2980m, 1794m, 1656s, 1567s, 1540s, 1471s, 1327s, 1162s, 1127s; MS (ES) m/z (relative intensity): 349 (M+ +Na, 20), 327 (M+ +H, 100); Anal. Calcd. for C16H17F3 N2O2 : C, 58.89; H, 5.25; N, 8.58. Found: C, 59.07; H, 5.34; N, 8.31.

reactant | 3-ethoxy-4-(tert-butylamino)-cyclobut-3-ene-1,2-dione | C(C)OC=1C(C(C1NC(C)(C)C)=O)=O | C10H15NO3
reactant | 4-trifluoromethyl-benzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | KBr | [K+].[Br-]
product | 3-tert-Butylamino-4-(4-trifluoromethyl-benzylamino)-cyclobut-3-ene-1,2-dione | Yield: 63% | C(C)(C)(C)NC=1C(C(C1NCC1=CC=C(C=C1)C(F)(F)F)=O)=O | C16H17F3N2O2
